US07186749B2
Step 1: Methyl 2-{[6-(1,5-diphenyl-1H-pyrrol-2-yl)-2-naphthyl]oxy}-3-phenylpropanoate.
In a similar manner as described in step 1 of Example 7, the title compound was prepared from 6-(1,5-diphenyl-1H-pyrrol-2-yl)-2-naphthol (0.300 g, 0.676 mmol), prepared in step 2 of Example 11, 3-phenyl-2-trifluoromethanesulfonyloxypropionic acid methyl ester (0.317 g, 1.02 mmol) and cesium carbonate (0.441 g, 1.35 mmol) with the exception that this reaction was complete after 30 minutes at ambient temperature. Purification on a Biotage Horizon™ system with a KP-Sil Flash 25+M column (40 g Silica Gel, 60 Å) using 25% to 65% methylene chloride in hexane as the eluent gave methyl 2-{[6-(1,5-diphenyl-1H-pyrrol-2-yl)-2-naphthyl]oxy}-3-phenylpropanoate as a white solid (0.257 g, 89%), mp 178–179° C. Elemental Analysis for C36H29NO3 Calc'd: C, 82.58; H, 5.58; N, 2.67. Found: C; 81.87; H, 5.10; N, 2.50.

reactant | 6-(1,5-diphenyl-1H-pyrrol-2-yl)-2-naphthol | 0.676 mmol, 0.300 g | C1(=CC=CC=C1)N1C(=CC=C1C1=CC=CC=C1)C=1C=C2C=CC(=CC2=CC1)O | C26H19NO
reactant | 3-phenyl-2-trifluoromethanesulfonyloxypropionic acid methyl ester | 1.02 mmol, 0.317 g | COC(C(CC1=CC=CC=C1)OS(=O)(=O)C(F)(F)F)=O | C11H11F3O5S
reactant | cesium carbonate | 1.35 mmol, 0.441 g | C([O-])([O-])=O.[Cs+].[Cs+]
product | methyl 2-{[6-(1,5-diphenyl-1H-pyrrol-2-yl)-2-naphthyl]oxy}-3-phenylpropanoate | 0.257 g, 89% | C1(=CC=CC=C1)N1C(=CC=C1C1=CC=CC=C1)C=1C=C2C=CC(=CC2=CC1)OC(C(=O)OC)CC1=CC=CC=C1 | C36H29NO3
